US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[4-(2-morpholin-4-yl-ethyl)-thiazol-2-yl]-urea (15 mg, 31%) was prepared from 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[4-(2-oxo-ethyl)-thiazol-2-yl]-urea (0.04 g, 0.11 mmol) and morpholine (0.009 g, 0.11 mmol) following the general procedure Q.

reactant | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[4-(2-oxo-ethyl)-thiazol-2-yl]-urea | 0.11 mmol, 0.04 g | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=C(N1)CC=O | C19H21N3O3S
reactant | morpholine | 0.11 mmol, 0.009 g | N1CCOCC1 | C4H9NO
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[4-(2-morpholin-4-yl-ethyl)-thiazol-2-yl]-urea | 15 mg, 31% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=C(N1)CCN1CCOCC1 | C23H30N4O3S
